US09227985B2
Step 2. Methyl {(3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-yl}carbamate
(3R)-1-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-amine trihydrochloride (35 mg, 0.068 mmol) was stirred in methylene chloride (1.0 mL) with triethylamine (47 μL, 0.34 mmol), followed by addition of methyl chloroformate (10 μL, 0.14 mmol). The mixture was stirred at room temperature for 30 min and concentrated. Purification by preparative LCMS using pH 10 buffer gave the title compound (24 mg, 75%). LCMS calc. for C25H27N6O4 (M+H)+: m/z=475.2. found: 475.3. 1H NMR (300 MHz, CD3OD) δ 8.58 (d, J=4.8 Hz, 1H), 7.69 (td, J=7.8, 1.8 Hz, 1H), 7.32 (dd, J=7.1, 5.3 Hz, 1H), 7.05 (d, J=8.1 Hz, 2H), 6.89 (d, J=8.1 Hz, 2H), 6.59 (d, J=7.9 Hz, 1H), 6.03 (s, 1H), 4.55 (dd, J=11.5, 2.8 Hz, 2H), 4.29-4.09 (m, 1H), 4.00-3.71 (m, 2H), 3.63-3.50 (m, 3H), 3.40 (dd, J=9.8, 4.6 Hz, 1H), 2.23 (s, 3H), 2.23-2.11 (m, 1H), 2.08 (s, 3H), 1.98-1.83 (m, 1H).

reactant | (3R)-1-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-amine trihydrochloride | 0.068 mmol, 35 mg | Cl.Cl.Cl.CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2C[C@@H](CC2)N)C
reactant | triethylamine | 0.34 mmol, 47 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.14 mmol, 10 μL | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl {(3R)-1-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]pyrrolidin-3-yl}carbamate | 24 mg, 75% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2C[C@@H](CC2)NC(OC)=O)C | C25H26N6O4
